US05891901
A mixture of methyl-6-methylsulfanyl-1H-indole-2-carboxylate (11.2 g, 51 mmol) and 2N NaOH (125 ml) was heated to reflux temperature for 30 minutes. The clear solution was cooled, and extracted with EtOAc. The aqueous fraction was acidified with concentrated HCl to pH=1, and the precipitate which formed, was filtered and dried to give 6-Methylsulfanyl-1H-indole-2-carboxylic acid (9.6 g, 91.0%).

reactant | methyl-6-methylsulfanyl-1H-indole-2-carboxylate | 51 mmol, 11.2 g | COC(=O)C=1NC2=CC(=CC=C2C1)SC | C11H11NO2S
reactant | NaOH | 2N, 125 ml | [OH-].[Na+]
product | 6-Methylsulfanyl-1H-indole-2-carboxylic acid | 9.6 g, 91.0% | CSC1=CC=C2C=C(NC2=C1)C(=O)O | C10H9NO2S
